US09085583B2
To a solution of methyl 2-oxo-1-phenyl-1,2-dihydropyridine-4-carboxylate (272 mg, 1.03 mmol) in alcohol/water (v/v=1/1, 5 mL) was added lithium hydroxide (62 mg, 1.55 mmol), and the mixture was stirred at room temperature for 8 hours. The reaction mixture was concentrated, acidified by diluted aqueous hydrochloric acid (1 N, 5 mL) and extracted with ethyl acetate (2×10 ml). The combined organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford 2-methyl-1-phenyl-1H-indole-3-carboxylic acid as white solid (115 mg, 44%). LRMS (M−H+) m/z: calcd for 251.09. found 251.

reactant | methyl 2-oxo-1-phenyl-1,2-dihydropyridine-4-carboxylate | 1.03 mmol, 272 mg | O=C1N(C=CC(=C1)C(=O)OC)C1=CC=CC=C1 | C13H11NO3
reactant | lithium hydroxide | 1.55 mmol, 62 mg | [OH-].[Li+]
product | 2-methyl-1-phenyl-1H-indole-3-carboxylic acid | 115 mg, 44% | CC=1N(C2=CC=CC=C2C1C(=O)O)C1=CC=CC=C1 | C16H13NO2
